### PR TITLE
[Merged by Bors] - feat: demote the instance Fintype.ofIsEmpty to a def

### PR DESCRIPTION
**Pull request by sgouezel**
Rationale: this instance creates (empty) data out of nothing, which may conflict with other data. If you have in the context `[Fintype i]` and case on whether `i` is empty or not, then this gave two non-defeq instances of `[Fintype i]` around.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fintype/Basic.lean [hunk 1]
```diff
@@ -755,6 +752,7 @@ theorem toFinset_univ [Fintype α] [Fintype (Set.univ : Set α)] :
   simp
 #align set.to_finset_univ Set.toFinset_univ
 
+attribute [local instance] Fintype.ofIsEmpty in
```
Comment (jcommelin) [inline Mathlib/Data/Fintype/Basic.lean:755]: Is this instance needed for the statement? Can we have a statement that merely needs `Finite` instead of `Fintype`?

File: Mathlib/Data/Set/Finite.lean [hunk 2]
```diff
@@ -286,6 +286,7 @@ protected theorem toFinset_compl [DecidableEq α] [Fintype α] (hs : s.Finite) (
   simp
 #align set.finite.to_finset_compl Set.Finite.toFinset_compl
 
+attribute [local instance] Fintype.ofIsEmpty in
```
Comment (jcommelin) [inline Mathlib/Data/Set/Finite.lean:289]: Idem

File: Mathlib/SetTheory/Cardinal/Cofinality.lean [hunk 3]
```diff
@@ -920,6 +920,7 @@ theorem mk_bounded_subset {α : Type*} (h : ∀ x < #α, (2^x) < #α) {r : α 
       simpa [singleton_eq_singleton_iff] using hab
 #align cardinal.mk_bounded_subset Cardinal.mk_bounded_subset
 
+attribute [local instance] Fintype.ofIsEmpty in
```
Comment (jcommelin) [inline Mathlib/SetTheory/Cardinal/Cofinality.lean:923]: Idem

File: Mathlib/SetTheory/Game/Short.lean [hunk 4]
```diff
@@ -168,6 +168,7 @@ theorem short_birthday (x : PGame.{u}) : [Short x] → x.birthday < Ordinal.omeg
     · apply ihr
 #align pgame.short_birthday SetTheory.PGame.short_birthday
 
+attribute [local instance] Fintype.ofIsEmpty in
```
Comment (jcommelin) [inline Mathlib/SetTheory/Game/Short.lean:171]: Idem

File: Mathlib/Data/Fintype/Basic.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Data/Fintype/Basic.lean:755]: No, it's just used in the proof. Same thing for the other ones. I can try to move it inside the proofs to make this clear.

File: Mathlib/Data/Fintype/Card.lean [hunk 5]
```diff
@@ -222,12 +222,7 @@ theorem card_unique [Unique α] [h : Fintype α] : Fintype.card α = 1 :=
   Subsingleton.elim (ofSubsingleton default) h ▸ card_ofSubsingleton _
 #align fintype.card_unique Fintype.card_unique
 
-/-- Note: this lemma is specifically about `Fintype.of_is_empty`. For a statement about
-arbitrary `Fintype` instances, use `Fintype.card_eq_zero_iff`. -/
-@[simp]
-theorem card_of_isEmpty [IsEmpty α] : Fintype.card α = 0 :=
-  rfl
-#align fintype.card_of_is_empty Fintype.card_of_isEmpty
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Data/Fintype/Card.lean:230]: It is a particular case of `card_eq_zero`, so why keep it?

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Fintype/Card.lean:230]: Because this one works with `dsimp`

[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Data/Fintype/Card.lean]: ok, I've added it back.

**Comment by urkud** [comment]
Thanks! :tada:
bors merge

**Comment by urkud** [comment]
Please merge `master` and fix the compile error.
bors r-
bors d+
